US09233098B2
4. Preparation of ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate
1.3 g (3.83 mmol) ethyl 2-[3-(4-nitrobenzyl)-1H-indazol-1-yl]acetate was dissolved in 40 mL methanol. 200 mg palladium on carbon was added, and reacted under an atmosphere of H2 at room temperature overnight. It was filtered to remove solid, rotate evaporated to dryness to remove the solvent, and separated by a preparative chromatography to obtain a white solid 630 mg, at a yield of 53.3%.

reactant | ethyl 2-[3-(4-nitrobenzyl)-1H-indazol-1-yl]acetate | 3.83 mmol, 1.3 g | [N+](=O)([O-])C1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H17N3O4
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | ethyl 2-[3-(4-aminobenzyl)-1H-indazol-1-yl]acetate | 630 mg, yield of 53.3% | NC1=CC=C(CC2=NN(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
